US09303033B2
To 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione (30 mg, 0.066 mmol) in DMF was added 2-(bromomethyl)pyridine hydrogen bromide (26.0 mg, 0103 mmol). The mixture was stirred at room temperature for 0.5 hour. The reaction mixture was concentrated, diluted with MeOH, and purified by prep HPLC to yield 5-((5-(3-chlorophenylamino)-7-(1-(pyridin-2-ylmethyl)piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione. LCMS (M+1=544)

reactant | 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 0.066 mmol, 30 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCNCC1)N=CC2C=C2C(NC(N2)=O)=O | C21H21ClN8O2
reactant | 2-(bromomethyl)pyridine hydrogen bromide | 26.0 mg | Br.BrCC1=NC=CC=C1
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-((5-(3-chlorophenylamino)-7-(1-(pyridin-2-ylmethyl)piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCN(CC1)CC1=NC=CC=C1)N=CC2C=C2C(NC(N2)=O)=O | C27H26ClN9O2
